US07094780B1
(c) 1-(1-Benzyl-3-methoxymethylpyrrolidin-3-yl)methylamine
Hydrazine hydrate (85% solution in water, 0.372 g, 6.32 mmol) is added to a solution of 2-(1-benzyl-3-methoxymethylpyrrolidin-3-ylmethyl)isoindole-1,3-dione (Example A20, 1.581 g, 4.34 mmol) in ethanol (50 mL). The resulting mixture is refluxed for 4.5 hours, cooled and acidified with concentrated hydrochloric acid. The precipitate is removed by filtration and the filtrate is concentrated in vacuo. The residue is dissolved in ethanol/water (2:1) and the insoluble material is removed by filtration. The filtrate is basified to pH 10 with 1N sodium hydroxide solution and extracted with dichloromethane. The combined organic extracts are dried over Na2SO4, filtered and concentrated under vacuum to afford the title compound (0.910 g). 1H NMR (200 MHz, CDCl3): δ 7.41–7.15 (m, 5H), 3.57 (s, 2H), 3.33 (s, 3H), 3.30 (s, 2H), 2.71 (s, 2H), 2.64–2.51 (m, 2H), 2.42–2.24 (m, 2H), 1.68–1.52 (m, 2H), 1.38–1.10 (m, 2H).

reactant | Hydrazine hydrate | 6.32 mmol, 0.372 g | O.NN
reactant | 2-(1-benzyl-3-methoxymethylpyrrolidin-3-ylmethyl)isoindole-1,3-dione | 4.34 mmol, 1.581 g | C(C1=CC=CC=C1)N1CC(CC1)(COC)CN1C(C2=CC=CC=C2C1=O)=O | C22H24N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-(1-Benzyl-3-methoxymethylpyrrolidin-3-yl)methylamine | 0.910 g | C(C1=CC=CC=C1)N1CC(CC1)(COC)CN | C14H22N2O
